US09337430B2
5-(4-Dibenzofuran-4-ylphenyl)-5H-phenanthridin-6-one
23 g (110.0 mmol) of 4-dibenzofuranboronic acid, 38 g (110 0 mmol) of 5-(4-bromophenyl)-5H-phenanthridin-6-one and 44.6 g (210.0 mmol) of tripotassium phosphate are suspended in 500 ml of toulene, 500 ml of dioxane and 500 ml of water. 913 mg (3.0 mmol) of tri-o-tolylphosphine and then 112 mg (0.5 mmol) of palladium(II) acetate are added to this suspension, and the reaction mixture is heated under reflux for 16 h. After cooling, the organic phase is separated off, filtered through silica gel, washed three times with 200 ml of water each time and subsequently evaporated to dryness. The residue is recrystallised from toluene and from dichloromethane/isopropanol and finally sublimed in a high vacuum, purity is 99.9%. The yield is 38 g (92 mmol), corresponding to 84% of theory.

reactant | 4-dibenzofuranboronic acid | 110.0 mmol, 23 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
reactant | 5-(4-bromophenyl)-5H-phenanthridin-6-one | 0 mmol, 38 g | BrC1=CC=C(C=C1)N1C=2C=CC=CC2C2=CC=CC=C2C1=O | C19H12BrNO
reactant | tripotassium phosphate | 210.0 mmol, 44.6 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tri-o-tolylphosphine | 3.0 mmol, 913 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | palladium(II) acetate | 0.5 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 500 ml | O | H2O
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 5-(4-Dibenzofuran-4-ylphenyl)-5H-phenanthridin-6-one | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C3=CC=C(C=C3)N3C=2C=CC=CC2C2=CC=CC=C2C3=O | C31H19NO2
